US07091237B2
triisopropyl[(3-methylthien-2-yl)methoxy]silane
A solution of (3-methylthien-2-yl)methanol (3.20 g) in tetrahydrofuran (10 ml) was added to a mixture of sodium hydride (60% dispersion in mineral oil, 1.05 g) in tetrahydrofuran (40 ml). After the evolution of hydrogen had subsided triisopropylsilyl chloride (5.2 ml) was added. The reaction mixture was stirred for 2 hours then diluted with ethyl acetate. The mixture was extracted with water, 2M aqueous sodium hydroxide, water and dried with brine and over sodium sulfate. The crude product was purified by Biotage chromatography® using 100:1 petroleum ether:ethyl acetate as eluent to give the title compound as a colorless oil.

reactant | (3-methylthien-2-yl)methanol | 3.20 g | CC1=C(SC=C1)CO | C6H8OS
reactant | sodium hydride | 1.05 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | triisopropylsilyl chloride | 5.2 ml | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | triisopropyl[(3-methylthien-2-yl)methoxy]silane | C(C)(C)[Si](OCC=1SC=CC1C)(C(C)C)C(C)C | C15H28OSSi
